US04251263
Preparation of 2-(3-trifluoromethylphenoxy)N,N-diallyl nicotinamide (Compound 1 herein)
In the same manner as in Example 1(a), 1.6 grams (0.016 mole) diallylamine and 2.5 grams (0.008 mole) 2-(3-trifluoromethylphenoxy)nicotinoyl chloride were mixed in 100 milliliters benzene to yield 1.6 grams (55.2% of theoretical yield) of the desired product, nD30 1.5003. The structure of this compound was confirmed by mass spectrometry.

reactant | diallylamine | 0.016 mole, 1.6 grams | C(C=C)NCC=C | C6H11N
reactant | 2-(3-trifluoromethylphenoxy)nicotinoyl chloride | 0.008 mole, 2.5 grams | FC(C=1C=C(OC2=C(C(=O)Cl)C=CC=N2)C=CC1)(F)F | C13H7ClF3NO2
solvent | benzene | 100 milliliters | C1=CC=CC=C1 | C6H6
product | 2-(3-trifluoromethylphenoxy)N,N-diallyl nicotinamide | FC(C=1C=C(OC2=C(C(=O)N(CC=C)CC=C)C=CC=N2)C=CC1)(F)F | C19H17F3N2O2
